US07919468B2
N-Boc-Tyr(Bn)-Asn-Trp-NH(CH2)4NHBoc:
compound SP323C2. Same procedure as above with Trp-NH(CH2)4NHBoc (108.7 mg, 0.29 mmol), N-Boc-Tyr(Bn)-Asn-OH (140.9 mg, 0.29 mmol), EDC (61.8 mg, 0.32 mmol) and HOBt (43.6 mg, 0.32 mmol) in CH2Cl2/DMF (2 mL, 1/1). The crude residue was purified by flash column chromatography on silica gel (2-6% MeOH/CH2Cl2) to give an white solid (69.3 mg, 28%). 1H NMR (300 MHz, DMSO-d6) δ 1.18-1.37 (m, 4H, 2 CH2 putrescine), 1.28 (s, 9H, (CH3)3), 1.37 (s, 9H, (CH3)3), 2.42-3.2 (m, 10H, CH2 Tyr, CH2 Trp, CH2 Asn, 2 CH2 putrescine), 4.1 (m, 1H, CHα), 4.36 (m, 1H, CHα), 4.53 (m, 1H, CHα), 5.03 (s, 2H, CH2 (Bn)), 6.71 (m, 1H), 6.8-7.53 (m, 17H), 7.84 (m, 1H), 8.01 (d, J=9 Hz, 1H), 8.13 (d, J=7.6 Hz, 1H), 10.73 (s, 1H). 13C NMR (75 MHz, DMSO-d6) δ 26.4, 27 (2 CH2 putrescine), 27.4 (CH2 Trp), 28.4 ((CH3)3), 36.6, 37.2 (CH2 Tyr, CH2 Asn), 38.4, 39.4 (2 CH2 putrescine), 49.8, 54, 55.9 (CHα Tyr, Asn, Trp), 69.2 (CH2 (Bn)), 77.5, 78.2 (C(CH3)3), 110.2, 111.3, 114.4, 118.3, 120.9, 123.6, 127.4, 127.7, 127.9, 128.5, 130.3, 130.4, 136.1, 137.4 (19 aromatic C), 155.4, 155.7, 157 (Car-O, 2 CO carbamate), 170.7, 170.9, 171.8, 172.1 (4 CO amide). Anal. Calcd. for C45H59N7O9: C, 64.19; H, 7.06; N, 11.64. Found: C, 63.97; H, 7.05; N, 11.76.

reactant | Trp-NH(CH2)4NHBoc | 0.29 mmol, 108.7 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCCCCNC(=O)OC(C)(C)C | C20H30N4O3
reactant | N-Boc-Tyr(Bn)-Asn-OH | 0.29 mmol, 140.9 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C25H31N3O7
reactant | EDC | 0.32 mmol, 61.8 mg
reactant | HOBt | 0.32 mmol, 43.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 DMF | 2 mL | C(Cl)Cl.CN(C)C=O
product | N-Boc-Tyr(Bn)-Asn-Trp-NH(CH2)4NHBoc | 69.3 mg, 28% | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCCCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C45H59N7O9
